US03931412
Example 6 -- Preparation of Benzylidene Bispropionate
Benzaldehyde (1.5 mol) and propionic anhydride (1.5 mol) were reacted in the presence of 0.5 ml perchloric acid by the procedure of Example 4. The resulting benzylidene bispropionate distilled at 104°C. (0.1 mm/Hg).

reactant | Benzaldehyde | 1.5 mol | C(C1=CC=CC=C1)=O | C7H6O
reactant | propionic anhydride | 1.5 mol | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | perchloric acid | 0.5 ml | Cl(=O)(=O)(=O)O | ClHO4
product | Benzylidene Bispropionate | C(CC)(=O)OC(C1=CC=CC=C1)OC(CC)=O | C13H16O4
